US07419989B2
1-Acetyl-3-(methylamino)piperidine was prepared from N3—Cbz protected 3-methylamino-piperidine: i) AcCl, i-Pr2NEt, CH2Cl2; ii) H2 (1 atm), 10% Pd/C, EtOH. 1H-NMR (CD3OD): δ (ppm) 4.0 (m, 1H), 3.6 (m, 1H), 3.4-3.2 (m, 2H), 3.0 (m, 1H), 2.6 (s, 3H), 2.1 (s, 3H), 1.8-1.6 (m, 4H).

reactant | 3-methylamino-piperidine | CNC1CNCCC1 | C6H14N2
reactant | AcCl | C(=O)(C)Cl | C2H3ClO
reactant | i-Pr2NEt | CCN(C(C)C)C(C)C | C8H19N
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | [Pd] | Pd
solvent | EtOH | CCO | C2H6O
product | 1-Acetyl-3-(methylamino)piperidine | C(C)(=O)N1CC(CCC1)NC | C8H16N2O
